US05460669
Hydrazinium 3-Nitramino-4-Nitrofurazan
Into a clean 250 ml 3 neck round bottom flask equipped with a nitrogen port, magnetic stirring bar, and thermocouple was placed 3-nitroamino-4-nitrofurazan ("ANF"; 4.44 grams 0.025M). Thirty-five mls of distilled water was then added and the flask set into an ice bath. Fuming hydrazine (95%; 0.942 g; 0.028M) was preweighed into a vial, then added over three minutes while not letting the reaction temperature exceed +8° C. The reaction mixture was kept cold for 10 minutes, then the ice bath was withdrawn and the reaction mixture was stirred 2.5 hrs. After transfer to a tarred one neck flask, the water was removed in vacuo at 40° C. to obtain crystals (94% yield). The crystals were dissolved in approximately 200 ml THF at 40° C. then the amount of solvent present was reduced and thereafter the solution was refrigerated at -20° C. for 16 hrs. The resulting yellow green crystals were collected and placed over high vacuum (68.5% theoretical yield). DSC: decomposition at 184° C. FTIR 3500-3000 (m), 1583 (s), 1467, 1422, 1395, 1348, 1296 (m). The density of the hydrate (X-ray analysis) was 1,704 g/ml.

reactant | 3-nitroamino-4-nitrofurazan | 0.025M, 4.44 grams | [N+](=O)([O-])NC1=NON=C1[N+](=O)[O-] | C2HN5O5
reactant | hydrazine | 0.028M, 0.942 g | NN | H4N2
solvent | water | Thirty-five mls | O | H2O
product | Hydrazinium 3-Nitramino-4-Nitrofurazan | 94% yield | N([N+](=O)[O-])C1=NON=C1[N+](=O)[O-].[NH3+]N | InChI=1S/C2HN5O5.H4N2/c8-6(9)2-1(3-7(10)11)4-12-5-2;1-2/h(H,3,4);1-2H2/p+1
